Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Cervical fracture s/p fall
 
Major Surgical or Invasive Procedure:
___: ACDF  C4-C5, C5-6 Dr. ___ 

 
___ of Present Illness:
Ms. ___ is a ___ yr. old left handed female who presents
today for reconsultation in follow up of a recent ER visit and
neurosurgical evaluation of a cervical fracture.  

She reports falling in ___ approximately ___,
returned home and on ___ presented to ___ 
for
evaluation.  Patient reported soreness in her back with movement
and chest/trunk pain.  Imaging showed multiple transverse 
process
fractures in her L spine and a question of fracture in the C
spine. She was transferred to ___ for further evaluation

Here, here CT C/T/L spine were reviewed: Question of a C4
superior endplate fracture. Transverse process fractures at left
L2, 3, and 4

She is accompanied by her daughter who helps to interpret. 
Patient states that she has had double vision since her fall,
dizziness, not walking as well due to her vision, back rib 
pains.
Denies HA, N/V, Dz, Sz.
 
Past Medical History:
Hypertension
Hypercholesterolemia
Elevated Blood Sugars - in the process of evaluation for 
diabetes
 
Social History:
___
Family History:
Mother died age ___ cause unknown; father died age ___
complications of gastric ulcer. She has 13 siblings, several of 
whom have HTN.  One brother with diabetes.  Denies family 
history of CAD, CVA, Ca
 
Physical Exam:
==============
ON DISCHARGE
==============

patient is awake and oriented x 3 with translator. Patient 
follows commands, motor ___ throughout. sensory intact. face 
symmetric, tongue midline, no pronator drift. 

incision: dressing removed, steri stripes intact. no swelling. 
no redness. no drainage. aspen collar.
 
Pertinent Results:
___ CT CERVICAL NECK W/O CONTRAST
  
1. Postsurgical changes following C4-C6 anterior fusion with 
interbody fusion cage devices are noted with overall improvement 
in previously identified multilevel moderate to severe spinal 
canal and neuroforaminal stenosis since prior exam in ___, allowing for technical differences. 
2. No evidence of hardware fracture. 
  

 
Brief Hospital Course:
On ___, Ms. ___ presented for elective C4-C6 anterior 
cervical discectomy and fusion.  Her operative course was 
uncomplicated; please see operative note for full details.  She 
was monitored in PACU post-operatively prior to transfer to the 
floor.

On ___ patient remains neurologically stable. Patient 
ambulating with nursing staff and foley discontinued. Patient 
tolerating a soft diet however having intermittent nausea. Pain 
management adjusted. 

On ___ patient remains neurologically stable. Patient states 
she feels much better and eating more with no complaints of 
nausea overnight. Dressing removed, incision with steri-stripes 
no drainage/redness/swelling. Patient in agreement with 
discharge to home. Communicated with patients nurse to change 
cervical neck collar to ___, nurse acknowledged. 
 
Medications on Admission:
ATENOLOL - atenolol 100 mg tablet. 1 (One) tablet(s) by mouth
once a day -  (Prescribed by Other Provider)
ATORVASTATIN - atorvastatin 20 mg tablet. 1 (One) tablet(s) by
mouth at bedtime -  (Prescribed by Other Provider)
LISINOPRIL-HYDROCHLOROTHIAZIDE - lisinopril 20
mg-hydrochlorothiazide 25 mg tablet. 1 (One) tablet(s) by mouth
once a day -  (Prescribed by Other Provider)
NIFEDIPINE [NIFEDICAL XL] - Nifedical XL 30 mg tablet,extended
release. 1 (One) tablet(s) by mouth once a day -  (Prescribed by
Other Provider)
 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild  
2.  Docusate Sodium 100 mg PO BID  
3.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 capsule(s) by mouth every 6 hours as needed 
Disp #*30 Capsule Refills:*0 
4.  Atenolol 100 mg PO DAILY  
5.  Atorvastatin 20 mg PO QPM  
6.  Furosemide 40 mg PO DAILY  
7.  NIFEdipine CR 60 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Degenerative disc disease with narrowing C5-6 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions

___

Surgery
•Your dressing may come off on the second day after surgery. 
•Your incision is closed with dissolvable sutures underneath the 
skin and steri strips. You do not need suture removal. Do not 
remove your steri strips, let them fall off.
•Please keep your incision dry for 72 hours after surgery.
•Please avoid swimming for two weeks.
•Call your surgeon if there are any signs of infection like 
redness, fever, or drainage. 

Activity
•You must wear your hard cervical collar at all times. You may 
remove it briefly for skin care and showering. PLEASE MAINTAIN 
COLLAR FOR 2 WEEKS.
•We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
•You make take leisurely walks and slowly increase your activity 
at your own pace. ___ try to do too much all at once.
•No driving while taking any narcotic or sedating medication. 
•No contact sports until cleared by your neurosurgeon. 
•Do NOT smoke. Smoking can affect your healing and fusion.

Medications
•Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
•Do not take any anti-inflammatory medications such as Motrin, 
Advil, Aspirin, and Ibuprofen etc… for 2 weeks.
•You may use Acetaminophen (Tylenol) for minor discomfort if you 
are not otherwise restricted from taking this medication.
•It is important to increase fluid intake while taking pain 
medications. We also recommend a stool softener like Colace. 
Pain medications can cause constipation. 

When to Call Your Doctor at ___ for:
•Severe pain, swelling, redness or drainage from the incision 
site. 
•Fever greater than 101.5 degrees Fahrenheit
•New weakness or changes in sensation in your arms or legs.

 
Followup Instructions:
___